US04533664
(b) N-(6-Chloro-pyrazin-2-yl)-4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxamide-1,1-dioxide
This compound was prepared from 4-hydroxy-2-methyl-N-methyl-2H-1,2-benzothiazine-3-carboxamide-1,1-dioxide, 2-amino-6-chloro-pyrazine and p-toluenesulfonic acid analogous to Example 14.

reactant | 4-hydroxy-2-methyl-N-methyl-2H-1,2-benzothiazine-3-carboxamide-1,1-dioxide | OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C(=O)NC | C11H12N2O4S
reactant | 2-amino-6-chloro-pyrazine | NC1=NC(=CN=C1)Cl | C4H4ClN3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | N-(6-Chloro-pyrazin-2-yl)-4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxamide-1,1-dioxide | ClC1=CN=CC(=N1)NC(=O)C=1N(S(C2=C(C1O)C=CC=C2)(=O)=O)C | C14H11ClN4O4S
